US06090820
To a flame dried flask equipped with a nitrogen inlet is introduced (R)-[3-[4-[cis-3-(carbobenzyloxy)-3,7-diazabicyclo[3.3.0]octan-7-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methanol (1.75 g, 3.84 mmol) and methylene chloride (100 mL) cooled to 0° C. Triethylamine (0.80 mL, 5.76 mmol) and methanesulfonyl chloride are added, stirred at 0° C. for 2 hours, and warmed to ambient temperature for 1 hour. The reaction is washed with water (30 mL), saturated sodium bicarbonate (30 mL), and saline (30 mL), dried over sodium sulfate, and concentrated in vacuo to give the crude (R)-[[3-[4-[cis-3-(carbobenzyloxy)-3,7-diazabicyclo[3.3.0]octan-7-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]methanesulfonate. (R)-[[3-[4-[cis-3-(Carbobenzyloxy)-3,7-diazabicyclo[3.3.0]octan-7-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]methanesulfonate is combined in a resealable tube with THF (5 mL), isopropanol (5 mL), and concentrated ammonium hydroxide (10 mL) and heated to 95° C. for 10 hours. The reaction is diluted with methylene chloride (50 mL) and washed with saline (30 mL), dried over sodium sulfate, concentrated in vacuo to give (S)-[[3-[4-[cis-3-(carbobenzyloxy)-3,7-diazabicyclo[3.3.0]octan-7-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]amine. The crude (S)-[[3-[4-[cis-3-(carbobenzyloxy)-3,7-diazabicyclo[3.3.0]octan-7-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]amine (1.67 g, 3.67 mmol) is dissolved in methylene chloride (20 mL), cooled to 0° C. under nitrogen, pyridine (0.89 mL, 11.02 mmol) and acetic anhydride (0.43 mL, 4.59 mmol) are added, and the reaction is stirred 15 hours at ambient temperature. The reaction is diluted with methylene chloride (50 mL), washed with 1N HCl (25 mL), saturated sodium bicarbonate (25 mL), saline (25 mL), dried over sodium sulfate, concentrated in vacuo, and chromatographed on silica gel (230-400 mesh, 200 mL), eluting with chloroform/methanol (98/2). The appropriate fractions are combined (Rf =0.15, TLC, chloroform/methanol, 95/5) and concentrated in vacuo to give the title compound, mp 165-168° C.

reactant | (R)-[[3-[4-[cis-3-(Carbobenzyloxy)-3,7-diazabicyclo[3.3.0]octan-7-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]methanesulfonate | C(=O)(OCC1=CC=CC=C1)N1C[C@@H]2CN(C[C@@H]2C1)C1=C(C=C(C=C1)N1C(O[C@@H](C1)CCS(=O)(=O)[O-])=O)F
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | isopropanol | 5 mL | C(C)(C)O | C3H8O
reactant | ammonium hydroxide | 10 mL | [OH-].[NH4+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-[[3-[4-[cis-3-(carbobenzyloxy)-3,7-diazabicyclo[3.3.0]octan-7-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]amine | C(=O)(OCC1=CC=CC=C1)N1C[C@@H]2CN(C[C@@H]2C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN)=O)F | C24H27FN4O4
